US08492582B2
Under ice-cooling, 1-methylpiperazine (0.095 mL) was addedd to an acetone (1.5 mL) solution of tert-butyl 2-(2-(benzyloxy)-5-(2-bromoethyl)benzamido)-4-phenylbenzoate (0.10 g), followed by stirring at room temperature for 30 minutes. Potassium carbonate (0.035 g) was added thereto, followed by stirring at room temperature for 1 hour. 1-Methylpiperazine (0.095 mL) and potassium carbonate (0.035 g) were added to the reaction mixture, followed by stirring at room temperature for 1 hour. The reaction mixture was left to stand overnight. The solvent was evaporated under reduced pressure, and a saturated aqueous solution of sodium bicarbonate and ethyl acetate were added to the residue. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 100-90% chloroform/methanol] to obtain 0.10 g of tert-butyl 2-(2-(benzyloxy)-5-(2-(4-methylpiperazin-1-yl)ethyl)benzamido)-4-phenylbenzoate.

reactant | 1-methylpiperazine | 0.095 mL | CN1CCNCC1 | C5H12N2
reactant | tert-butyl 2-(2-(benzyloxy)-5-(2-bromoethyl)benzamido)-4-phenylbenzoate | 0.10 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)CCBr | C33H32BrNO4
reactant | Potassium carbonate | 0.035 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-Methylpiperazine | 0.095 mL | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | 0.035 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1.5 mL | CC(=O)C | C3H6O
product | tert-butyl 2-(2-(benzyloxy)-5-(2-(4-methylpiperazin-1-yl)ethyl)benzamido)-4-phenylbenzoate | 0.10 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)CCN1CCN(CC1)C | C38H43N3O4
